US08349893B2
Potassium hydrogencarbonate (24 mg, 0.24 mmol) and iodomethane (106 mg, 0.74 mmol) were added to a solution of (R)-3-[8-(3,4-difluoro-benzyloxy)-octanoylamino]-4-dimethylamino-butyric acid (77 mg, 0.19 mmol) in methanol (2.5 mL). The reaction mixture was stirred at room temperature for 16 h, then diluted with chloroform (5 mL). Insoluble material was removed by filtration to afford (R)-3-[8-(3,4-difluoro-benzyloxy)-octanoylamino]-4-trimethylammonio-butyrate as a light yellow solid, m/e=429.3 ([M+H]+).

reactant | Potassium hydrogencarbonate | 0.24 mmol, 24 mg | C(O)([O-])=O.[K+]
reactant | iodomethane | 0.74 mmol, 106 mg | IC | CH3I
reactant | (R)-3-[8-(3,4-difluoro-benzyloxy)-octanoylamino]-4-dimethylamino-butyric acid | 0.19 mmol, 77 mg | FC=1C=C(COCCCCCCCC(=O)N[C@H](CC(=O)O)CN(C)C)C=CC1F | C21H32F2N2O4
solvent | methanol | 2.5 mL | CO | CH4O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | (R)-3-[8-(3,4-difluoro-benzyloxy)-octanoylamino]-4-trimethylammonio-butyrate | FC=1C=C(COCCCCCCCC(=O)N[C@H](CC(=O)[O-])C[N+](C)(C)C)C=CC1F | C22H34F2N2O4
